US07427390B2
Benzo[1,3]dioxole-5-carboxylic acid [4-(2-diethylamino-ethylcarbamoyl)-2-iodo-5-methoxy-phenyl]-amide
Produced analogously are: N-(2-diethylamino-ethyl)-5-iodo-2-methoxy-4-propionylylamino-benzamide; N-(2-diethylamino-ethyl)-4-(2,2-dimethyl-propionylamino)-5-iodo-2-methoxy-benzamide; N-(2-diethylamino-ethyl)-4-(2-hydroxy-acetylamino)-5-iodo-2-methoxy-benzamide; N-(2-diethylamino-ethyl)-4-(3-hydroxy-propionylamino)-5-iodo-2-methoxy-benzamide; N-(2-diethylamino-ethyl)-4-{2-[(2-hydroxy-ethyl)-methyl-amino]-acetylamino}-5-iodo-2-methoxy-benzamide; N-(2-diethylamino-ethyl)-5-iodo-2-methoxy-4-(2-morpholin-4-yl-acetylamino)-benzamide; 4-hydroxy-1-methyl-pyrrolidine-2-carboxylic acid [4-(2-diethylamino-ethylcarbamoyl)-2-iodo-5-methoxy-phenyl]-amide; N-(2-diethylamino-ethyl)-5-iodo-4-methanesulfonylamino-2-methoxy-benzamide; N-(2-diethylamino-ethyl)-5-iodo-4-butanesulfonylamino-2-methoxy-benzamide; N-(2-diethylamino-ethyl)-4-carboxy-acetylamino-5-iodo-2-methoxy-benzamide.

reactant | N-(2-diethylamino-ethyl)-4-(2,2-dimethyl-propionylamino)-5-iodo-2-methoxy-benzamide | C(C)N(CCNC(C1=C(C=C(C(=C1)I)NC(C(C)(C)C)=O)OC)=O)CC | C19H30IN3O3
reactant | N-(2-diethylamino-ethyl)-4-(2-hydroxy-acetylamino)-5-iodo-2-methoxy-benzamide | C(C)N(CCNC(C1=C(C=C(C(=C1)I)NC(CO)=O)OC)=O)CC | C16H24IN3O4
reactant | N-(2-diethylamino-ethyl)-4-(3-hydroxy-propionylamino)-5-iodo-2-methoxy-benzamide | C(C)N(CCNC(C1=C(C=C(C(=C1)I)NC(CCO)=O)OC)=O)CC | C17H26IN3O4
reactant | N-(2-diethylamino-ethyl)-4-{2-[(2-hydroxy-ethyl)-methyl-amino]-acetylamino}-5-iodo-2-methoxy-benzamide | C(C)N(CCNC(C1=C(C=C(C(=C1)I)NC(CN(C)CCO)=O)OC)=O)CC | C19H31IN4O4
reactant | N-(2-diethylamino-ethyl)-5-iodo-2-methoxy-4-(2-morpholin-4-yl-acetylamino)-benzamide | C(C)N(CCNC(C1=C(C=C(C(=C1)I)NC(CN1CCOCC1)=O)OC)=O)CC | C20H31IN4O4
reactant | 4-hydroxy-1-methyl-pyrrolidine-2-carboxylic acid [4-(2-diethylamino-ethylcarbamoyl)-2-iodo-5-methoxy-phenyl]-amide | C(C)N(CCNC(=O)C1=CC(=C(C=C1OC)NC(=O)C1N(CC(C1)O)C)I)CC | C20H31IN4O4
reactant | N-(2-diethylamino-ethyl)-5-iodo-4-methanesulfonylamino-2-methoxy-benzamide | C(C)N(CCNC(C1=C(C=C(C(=C1)I)NS(=O)(=O)C)OC)=O)CC | C15H24IN3O4S
reactant | N-(2-diethylamino-ethyl)-5-iodo-4-butanesulfonylamino-2-methoxy-benzamide | C(C)N(CCNC(C1=C(C=C(C(=C1)I)NS(=O)(=O)CCCC)OC)=O)CC | C18H30IN3O4S
reactant | N-(2-diethylamino-ethyl)-4-carboxy-acetylamino-5-iodo-2-methoxy-benzamide | C(C)N(CCNC(C1=C(C(=C(C(=C1)I)C(=O)O)NC(C)=O)OC)=O)CC | C17H24IN3O5
product | Benzo[1,3]dioxole-5-carboxylic acid [4-(2-diethylamino-ethylcarbamoyl)-2-iodo-5-methoxy-phenyl]-amide | C(C)N(CCNC(=O)C1=CC(=C(C=C1OC)NC(=O)C1=CC2=C(OCO2)C=C1)I)CC | C22H26IN3O5
